US05004747
A stirred suspension of 2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbonyl chloride (5.96 g; prepared according to the method of F. Duro et al., Il. Farmaco Ed. Sci., 36,400) in dry tetrahydrofuran (120 ml) was treated, portionwise, with sodium borohydride (1.68 g) and the mixture was stirred at room temperature for 4 hours. A further portion of sodium borohydride (0.4 g) was then added and the mixture was stirred for a further period of 30 minutes. The reaction mixture was then treated, dropwise, with dilute hydrochloric acid (60 ml; 2N) and then with water (80 ml). The mixture was diluted with diethyl ether (200 ml) and the organic phase was separated, washed with water (2×80 ml), dried over magnesium sulphate and evaporated. The resulting residue was crystallised from ethyl acetate, to give 3-hydroxymethyl-2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline (3.5 g) in the form of white crystals, m.p.159°-161° C. [Elemental analysis: C,77.2; H,5.76; N,5.37%; calculated: C,77.0; H,5.70; N,5.28%].

reactant | 2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbonyl chloride | CN1C(C2=CC=CC=C2C(=C1C(=O)Cl)C1=CC=CC=C1)=O | C17H12ClNO2
reactant | sodium borohydride | 1.68 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.4 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2N, 60 ml | Cl | ClH
reactant | water | 80 ml | O | H2O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 3-hydroxymethyl-2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline | 3.5 g | OCC=1N(C(C2=CC=CC=C2C1C1=CC=CC=C1)=O)C | C17H15NO2
